* =============================================================================
* Transient Analysis & Delay Characterization Testbench for 4:2 Compressor
* =============================================================================
.include "schematic.spice"

* Power Supplies
VVDD VDD 0 DC 1.8V
VVSS VSS 0 DC 0.0V

* Input Stimuli (Pulse Generators)
VX1 X1 0 PULSE(0 1.8 100ps 50ps 50ps 2ns 4ns)
VX2 X2 0 PULSE(0 1.8 200ps 50ps 50ps 1ns 2ns)
VX3 X3 0 PULSE(0 1.8 150ps 50ps 50ps 3ns 6ns)
VX4 X4 0 PULSE(0 1.8 250ps 50ps 50ps 1.5ns 3ns)
VCIN CIN 0 PULSE(0 1.8 0ps 50ps 50ps 4ns 8ns)

* Output Capacitive Loading (Fanout of 4 Inverters: ~10 fF)
CL_SUM   SUM   0 10fF
CL_CARRY CARRY 0 10fF
CL_COUT  COUT  0 10fF

* Device Under Test (DUT)
XDUT X1 X2 X3 X4 CIN SUM CARRY COUT VDD VSS COMPRESSOR_4TO2

* Transient Simulation Control
.tran 1ps 10ns

* Delay Measurements
.measure tran tpd_x1_to_sum TRIG V(X1) VAL=0.9 RISE=1 TARG V(SUM) VAL=0.9 RISE=1
.measure tran tpd_x1_to_cout TRIG V(X1) VAL=0.9 RISE=1 TARG V(COUT) VAL=0.9 RISE=1
.measure tran avg_power AVG P(VVDD) FROM=0ns TO=10ns

.end
